US04483857
4-Amino-6,7-dimethoxy-2-[4-(6-chloropyridazin-3-yl)piperazino] quinazoline
4-Amino-6,7-dimethoxy-2-piperazinoquinazoline (3.0 g, 10.4 mmole), 3-chloro-6-methoxy-pyridazine (3.96 g, 27.4 mmole) and triethylamine (5.0 g, 49.5 mmole) in n-pentanol (210 ml) were heated under reflux for 25 hours. The solvent was evaporated in vacuo and the residue partitioned between chloroform and saturated aqueous sodium carbonate solution. The organic layer was separated, washed with water, dried (Na2SO4) and evaporated in vacuo. The residue was chromatographed on silica gel (200 g) eluting with chloroform followed by 5% methanol in chloroform. Further purification of the major product by HPLC using a Waters 500 Prep. LC/system, eluting with 6% by volume methanol in methylene chloride at a flow rate of 0.15 liters per minute gave the desired product which was recrystallized from methanol, m.p. 269°-270° C. (0.5 g).

reactant | 4-Amino-6,7-dimethoxy-2-piperazinoquinazoline | 10.4 mmole, 3.0 g | NC1=NC(=NC2=CC(=C(C=C12)OC)OC)N1CCNCC1 | C14H19N5O2
reactant | 3-chloro-6-methoxy-pyridazine | 27.4 mmole, 3.96 g | ClC=1N=NC(=CC1)OC | C5H5ClN2O
reactant | triethylamine | 49.5 mmole, 5.0 g | C(C)N(CC)CC | C6H15N
solvent | n-pentanol | 210 ml | C(CCCC)O | C5H12O
product | 4-Amino-6,7-dimethoxy-2-[4-(6-chloropyridazin-3-yl)piperazino] quinazoline | NC1=NC(=NC2=CC(=C(C=C12)OC)OC)N1CCN(CC1)C=1N=NC(=CC1)Cl | C18H20ClN7O2
